US06096906
A bi-phasic solution of 2-(2,2-dimethyl-propoxycarbonyl)-5-trifluoromethyl-benzeneboronic acid (1.72 g, 5.66 mmol), (3S,4R)-3-benzyl-7-bromo-chroman-4-ol (1.80 g, 6.63 mmol), sodium carbonate (1.82 g, 17.2 mmol), and tretrakis(triphenyl-phosphine)palladium(0) (12 mg, 0.19 mol %) in toluene (15 mL) and water (9 mL) was stirred at reflux for 100 minutes. The reaction mixture was cooled to room temperature, poured into water (40 mL) and extracted with diisopropylether (75 mL). The organic extracts were washed with brine (50 mL), treated with Darco® G-60, dried over magnesium sulfate, filtered through Celite®, and concentrated. The crude product was purified by chromatography on silica gel (ethyl acetate/hexanes 20/80) to provide (3S,4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid 2,2-dimethylpropyl ester as a white foam (2.35 g, 84% yield): Rf : 0.32 (ethyl acetate/hexanes 25/75); IR 3407 (br), 2961, 1721, 1336, 1292, 1252, 1172, 1134, 1110, 1022, 848, 749 cm- ; 1H NMR (400 MHz, CDCl3) δ 7.90 (d, J=8.1 Hz, 1H), 7.66 (d, J=8.1 Hz, 1H), 7.63 (s, 1H), 7.19-7.37 (m, 6H), 6.88-6.93 (m, 2H), 4.53 (t, J=4.4 Hz, 1H), 4.22 (dd, J=11.2, 2.5 Hz, 1H), 3.99 (dd, J=11.2, 3.3 Hz, 1H), 3.78 (s, 2H), 2.73 (dd, J=13.8, 6.3 Hz, 1H), 2.54 (dd, J=13.6, 9.4 Hz, 1H), 2.20-2.80 (m, 1H), 1.81 (d, J=5.2 Hz, 1H), 0.74 (s, 9H); 13C NMR (100 MHz, CDCl3) δ 26.64, 30.96, 34.62, 41.53, 64.76, 67.42, 75.33, 116.77, 121.07, 122.97, 124.13, 126.44, 127.50, 127.54, 128.45, 128.60, 128.92, 129.11, 130.25, 130.31, 139.08, 141.69, 142.03, 154.44, 168.14.

reactant | 2-(2,2-dimethyl-propoxycarbonyl)-5-trifluoromethyl-benzeneboronic acid | 5.66 mmol, 1.72 g | CC(COC(=O)C1=C(C=C(C=C1)C(F)(F)F)B(O)O)(C)C | C13H16BF3O4
reactant | (3S,4R)-3-benzyl-7-bromo-chroman-4-ol | 6.63 mmol, 1.80 g | C(C1=CC=CC=C1)[C@H]1COC2=CC(=CC=C2[C@@H]1O)Br | C16H15BrO2
reactant | sodium carbonate | 17.2 mmol, 1.82 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 9 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | (3S,4R)-2-(3-benzyl-4-hydroxy-chroman-7-yl)-4-trifluoromethyl-benzoic acid 2,2-dimethylpropyl ester | 2.35 g, 84% yield | CC(COC(C1=C(C=C(C=C1)C(F)(F)F)C1=CC=C2[C@@H]([C@H](COC2=C1)CC1=CC=CC=C1)O)=O)(C)C | C29H29F3O4
